US04375475
Step A. Preparation of 2,4-Dichloro-6-phenoxybenzaldehyde
Sodium methoxide (0.54 g, 10 mmole) was added to a stirred solution containing 4,6-dichlorosalicylaldehyde (1.9 g, 10 mmole) in methanol (15 ml). After stirring the reaction solution for 15 minutes at 25° C., diphenyliodonium chloride (3.16 g, 10 mmole) was added in one portion. The resulting reaction mixture was refluxed for 30 hours and then concentrated in vacuo. The residue was suspended in water (100 ml) and the mixture was extracted with ether (3×50 ml). The ether extracts were combined, washed with brine (2×50 ml), dried over magnesium sulfate and filtered. The filtrate was evaporated in vacuo leaving the title compound as a brown oil which solidified upon trituration with hexane. This solid was recrystallized from hexane to give pale yellow needles (0.8 g, 30%) which melted at 99°-101° C., pmr (CDCl3) δ6.68 (H, d), 7.28 (6H, m), 10.58 (H, s).

reactant | Sodium methoxide | 10 mmole, 0.54 g | C[O-].[Na+]
reactant | 4,6-dichlorosalicylaldehyde | 10 mmole, 1.9 g | ClC=1C=C(C(C=O)=C(C1)Cl)O | C7H4Cl2O2
reactant | diphenyliodonium chloride | 10 mmole, 3.16 g | [Cl-].C1(=CC=CC=C1)[I+]C1=CC=CC=C1
solvent | methanol | 15 ml | CO | CH4O
product | 2,4-Dichloro-6-phenoxybenzaldehyde | ClC1=C(C=O)C(=CC(=C1)Cl)OC1=CC=CC=C1 | C13H8Cl2O2
